US08603726B2
A reactor was charged with 12.50 g (100 mmol) of 2-bromoethanol and 100 ml of tetrahydrofuran (THF) at 0° C. in a nitrogen atmosphere. After the dropwise addition of 10.45 g (100 mmol) of methacrylic chloride and 11.13 g (110 mmol) of triethylamine, the mixture was reacted at 25° C. for 30 minutes with stirring. After completion of the reaction, the reaction mixture was concentrated under reduced pressure, and the residue was purified by distillation to obtain 17.30 g of 2-bromoethyl methacrylate shown by the following formula (M-20′) (yield: 90%).

reactant | 2-bromoethanol | 100 mmol, 12.50 g | BrCCO | C2H5BrO
reactant | methacrylic chloride | 100 mmol, 10.45 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | triethylamine | 110 mmol, 11.13 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-bromoethyl methacrylate | 17.30 g, yield: 90% | C(C(=C)C)(=O)OCCBr | C6H9BrO2
